US05905149
5-(dimethylaminomethylenamino)-3-(4-quinolylmethylen)-2-oxindole
To a solution of 5-amino-3-(4-quinolylmethylen)-2-oxindole (287 mg, 1 mmol) and triethylamine (121 mg, 1.2 mmol) in THF (20 ml) was added portionwise at, 0° C. chlorodimethyl-formimminium chloride (154 mg, 1.2 mmol) and the stirring was continued at room temperature for 1 h. Then the reaction mixture was diluted with dichloromethane, the organic layer washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was chromatographed on silica gel (eluant ethyl acetate/methanol 1:1) to give pure title compound in 60% yield (205 mg).

reactant | 5-amino-3-(4-quinolylmethylen)-2-oxindole | 1 mmol, 287 mg | NC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C18H13N3O
reactant | triethylamine | 1.2 mmol, 121 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(dimethylaminomethylenamino)-3-(4-quinolylmethylen)-2-oxindole | 60% yield | CN(C)C=NC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C21H18N4O
